US05846989
3-[2-(4-Hydroxy-2-oxo-3H- 1,3-benzothiazol-7-yl)ethylamino]-N-[2-[2-(4-methylphenyl)ethoxy]ethyl]propanesulphonamide hydrochloride.
The title compound (0.2 g) was prepared according to the procedure in example 5 part e using methyl 3-[2-[2-(4-methylphenyl)ethoxy]ethylaminosulphonyl]propanoate (2.49 g), diisobutylaluminiumhydride (1.5M in toluene, 7.5 ml), 7-(2-aminoethyl)4-hydroxy-1,3-benzothiazol-2 (3H)-one hydrochloride (2.2 g) and sodium cyanoborohydride (0.48 g).

reactant | methyl 3-[2-[2-(4-methylphenyl)ethoxy]ethylaminosulphonyl]propanoate | 2.49 g | CC1=CC=C(C=C1)CCOCCNS(=O)(=O)CCC(=O)OC | C15H23NO5S
reactant | diisobutylaluminiumhydride | 1.5M, 7.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-(2-aminoethyl)4-hydroxy-1,3-benzothiazol-2 (3H)-one hydrochloride | 2.2 g | Cl.NCCC1=CC=C(C=2NC(SC21)=O)O
reactant | sodium cyanoborohydride | 0.48 g | C(#N)[BH3-].[Na+]
product | 3-[2-(4-Hydroxy-2-oxo-3H- 1,3-benzothiazol-7-yl)ethylamino]-N-[2-[2-(4-methylphenyl)ethoxy]ethyl]propanesulphonamide hydrochloride | 0.2 g | Cl.OC1=CC=C(C2=C1NC(S2)=O)CCNCCCS(=O)(=O)NCCOCCC2=CC=C(C=C2)C | InChI=1S/C23H31N3O5S2.ClH/c1-17-3-5-18(6-4-17)10-14-31-15-13-25-33(29,30)16-2-11-24-12-9-19-7-8-20(27)21-22(19)32-23(28)26-21;/h3-8,24-25,27H,2,9-16H2,1H3,(H,26,28);1H
